US07067658B2
Trifluoro-methanesulfonic acid 4-(2-chloro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl ester (0.91 g, 2.20 mmol), prepared substantially as described in Part C of Example 19a, and 1-cyclopropyl-propylamine HCl (0.56 g, 4.41 mmol) were treated substantially as described in Part C of Example 19a to produce 0.56 g (72%) of [4-(2-chloro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl]-(1-cyclopropyl-propyl)-amine: MS (AP) m/z 361.8 [(M+H)+, 100].

reactant | Trifluoro-methanesulfonic acid 4-(2-chloro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl ester | 2.20 mmol, 0.91 g | ClC1=C(C=CC(=C1)OC)C1=C(C(=NC=C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C13H8ClF3N2O6S
reactant | 1-cyclopropyl-propylamine HCl | 4.41 mmol, 0.56 g | Cl.C1(CC1)C(CC)N
product | [4-(2-chloro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl]-(1-cyclopropyl-propyl)-amine | 0.56 g, 72% | ClC1=C(C=CC(=C1)OC)C1=C(C(=NC=C1)NC(CC)C1CC1)[N+](=O)[O-] | C18H20ClN3O3
